US07897605B2
N-{4-[4-(2,4-Dimethyl-thiazol-5-yl)-pyrimidin-2-ylamino]-phenyl}-2-imidazol-1-yl-acetamide [54].
By treatment of 2-chloro-N-{4-[4-(2,4-dimethyl-thiazol-5-yl)-pyrimidin-2-ylamino]-phenyl}-acetamide with 1H-imidazole. 1H-NMR (DMSO-D6) δ: 2.61 (s, 3H, CH3), 2.63 (s, 3H, CH3), 4.86 (s, 2H, CH2), 6.88 (s, 1H, Aryl-H), 7.04 (d, 1H, J=5.9 Hz, pyrimidinyl-H), 7.15 (s, 1H, Aryl-H), 7.50 (d, 2H, J=7.8 Hz, Ph-H), 7.62 (s, 1H, Aryl-H), 7.68 (d, 2H, J=7.8 Hz, Ph-H), 8.48 (d, 1H, J=5.4 Hz, pyrimidinyl-H), 9.60 (s, 1H, NH), 10.18 (brs, 1H, NH). MS (ESI+) m/z 406.02 [M+H]+ (C20H19N7OS requires 405.48).

reactant | 2-chloro-N-{4-[4-(2,4-dimethyl-thiazol-5-yl)-pyrimidin-2-ylamino]-phenyl}-acetamide | ClCC(=O)NC1=CC=C(C=C1)NC1=NC=CC(=N1)C1=C(N=C(S1)C)C | C17H16ClN5OS
reactant | 1H-imidazole | N1C=NC=C1 | C3H4N2
product | N-{4-[4-(2,4-Dimethyl-thiazol-5-yl)-pyrimidin-2-ylamino]-phenyl}-2-imidazol-1-yl-acetamide | CC=1SC(=C(N1)C)C1=NC(=NC=C1)NC1=CC=C(C=C1)NC(CN1C=NC=C1)=O | C20H19N7OS
